// File: AO3X1.spi
// Created: Tue Apr 29 10:38:22 2025
// Program "Calibre xRC"
// Version "v2023.2_27.15"
// 
simulator lang=spectre
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/AO3X1.pex.spice"
subckt AO3X1 (  GND VDD A B C Y )
// 
// Y	Y
// C	C
// B	B
// A	A
// VDD	VDD
// GND	GND
M0_noxref ( N_GND_M0_noxref_d N_A_M0_noxref_g N_noxref_7_M0_noxref_s \
 noxref_111 ) NMOS l=0.163119 w=2.35104 m=1
M1_noxref ( N_noxref_3_M1_noxref_d N_B_M1_noxref_g N_noxref_7_M0_noxref_s \
 noxref_111 ) NMOS l=0.163346 w=2.31104 m=1
M2_noxref ( N_noxref_4_M2_noxref_d N_noxref_3_M2_noxref_g N_GND_M2_noxref_s \
 noxref_111 ) NMOS l=0.163346 w=2.31104 m=1
M3_noxref ( N_noxref_4_M3_noxref_d N_C_M3_noxref_g N_GND_M2_noxref_s \
 noxref_111 ) NMOS l=0.163129 w=2.31397 m=1
M4_noxref ( N_Y_M4_noxref_d N_noxref_4_M4_noxref_g N_GND_M4_noxref_s \
 noxref_111 ) NMOS l=0.163346 w=2.31104 m=1
M5_noxref ( N_noxref_3_M5_noxref_d N_A_M5_noxref_g N_VDD_M5_noxref_s \
 noxref_109 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 ps=2.57 nrd=0 nrs=0 m=1
M6_noxref ( N_VDD_M6_noxref_d N_A_M6_noxref_g N_noxref_3_M5_noxref_d \
 noxref_109 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M7_noxref ( N_noxref_3_M7_noxref_d N_B_M7_noxref_g N_VDD_M6_noxref_d \
 noxref_109 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M8_noxref ( N_VDD_M8_noxref_d N_B_M8_noxref_g N_noxref_3_M7_noxref_d \
 noxref_109 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 ps=2.56 nrd=0 nrs=0 m=1
M9_noxref ( N_VDD_M9_noxref_d N_noxref_3_M9_noxref_g N_noxref_9_M9_noxref_s \
 noxref_109 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 ps=2.57 nrd=0 nrs=0 m=1
M10_noxref ( N_noxref_9_M10_noxref_d N_noxref_3_M10_noxref_g N_VDD_M9_noxref_d \
 noxref_109 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M11_noxref ( N_noxref_4_M11_noxref_d N_C_M11_noxref_g N_noxref_9_M10_noxref_d \
 noxref_109 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M12_noxref ( N_noxref_9_M12_noxref_d N_C_M12_noxref_g N_noxref_4_M11_noxref_d \
 noxref_109 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 ps=2.56 nrd=0 nrs=0 m=1
M13_noxref ( N_Y_M13_noxref_d N_noxref_4_M13_noxref_g N_VDD_M13_noxref_s \
 noxref_109 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 ps=2.57 nrd=0 nrs=0 m=1
M14_noxref ( N_VDD_M14_noxref_d N_noxref_4_M14_noxref_g N_Y_M13_noxref_d \
 noxref_109 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 ps=2.56 nrd=0 nrs=0 m=1
// 
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/AO3X1.pxi.spice"
// 
ends AO3X1
// 
// 
